US20010007873A1
EXAMPLE 17 6-[2-CYCLOPROPYL4-(2-PYRROLIDIN-1-YL-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE
Prepared as in Example 14G using of 4-(6-amino-pyridin-yl)-3-cyclopropyl-phenol and 1-(2-chloroethyl)-pyrrolidine in a presence of Cs2CO3 in a boiling acetone (84% yield).

reactant | 4-(6-amino-pyridin-yl)-3-cyclopropyl-phenol | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CC1 | C14H14N2O
reactant | 1-(2-chloroethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 6-[2-CYCLOPROPYL4-(2-PYRROLIDIN-1-YL-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE | 84% yield | C1(CC1)C1=C(C=CC(=C1)OCCN1CCCC1)C1=CC=CC(=N1)N | C20H25N3O
